US06291530B1
A solution of t-butyl { 5-acetyl-2[(trifluoromethyl)sulfonyloxy]-phenoxy}acetate(1.0 g, 1.3 mmol) and phenylacetylene (0.33 mL, 3.0 mmol) in 20 mL triethylamine in a thick walled pyrex tube is degassed with nitrogen for 15 minutes. Bis(triphenylphosphine)-palladium(II) chloride (35 mg, 0.05 mmol) and copper (I) iodide (10 mg, 0.05 mmol) are added, and the vessel is sealed, and heated to 60° for 18 hours. After cooling, the triethylamine is removed in vacuo, and the residue is dissolved in ether (100 mL) and washed with 1 N HCl (1×100 mL) and brine (1×50 mL), dried over MgSO4, and concentrated in vacuo. Chromatography (silica, 5:1 hexane/EtOAc) yields t-butyl [5-acetyl-2-(2-phenylethynyl)-phenoxy]-acetate, along with 10% starting material. This mixture is carried on to the next step.

reactant | t-butyl { 5-acetyl-2[(trifluoromethyl)sulfonyloxy]-phenoxy}acetate | 1.3 mmol, 1.0 g | C(C)(=O)C=1C=CC(=C(OCC(=O)OC(C)(C)C)C1)OS(=O)(=O)C(F)(F)F | C15H17F3O7S
reactant | phenylacetylene | 3.0 mmol, 0.33 mL | C1(=CC=CC=C1)C#C | C8H6
solvent | triethylamine | 20 mL | C(C)N(CC)CC | C6H15N
catalyst | Bis(triphenylphosphine)-palladium(II) chloride | 0.05 mmol, 35 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.05 mmol, 10 mg | [Cu]I
product | t-butyl [5-acetyl-2-(2-phenylethynyl)-phenoxy]-acetate | C(C)(=O)C=1C=CC(=C(OCC(=O)OC(C)(C)C)C1)C#CC1=CC=CC=C1 | C22H22O4
